US07674789B2
156a) 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N-diethyl-4-methylbenzamide
5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one (0.720 g, 2.1 mmol), N,N-diethyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide from above (1.09 g, 3.15 mmol), and K2CO3 (0.868 g, 6.3 mmol), were taken up in dioxane (42 mL) and water (8.5 mL). The mixture was degassed with argon for 30 min and tetrakis-(triphenylphosphine)palladium(0) (0.183 g, 0.15 mmol) was added. The mixture was then heated under argon at 950 C for 18 h. The solvents were pumped off and after aqueous workup, the crude material was flashed on silica gel (150 g) eluted with a EtOAc/CH2Cl2 gradient to give the title compound as a white amorphous solid. mp 127-129° C. LC-MS m/z 498 (M+H)+, 2.11 min (ret time).

reactant | 5-chloro-1-(2,6-difluorophenyl)-7-(methylthio)-3,4-dihydropyrimido[4,5-d]pyrimidin-2(1H)-one | 2.1 mmol, 0.720 g | ClC1=C2C(=NC(=N1)SC)N(C(NC2)=O)C2=C(C=CC=C2F)F | C13H9ClF2N4OS
reactant | N,N-diethyl-4-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | C(C)N(C(C1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O)CC | C18H28BNO3
reactant | K2CO3 | 6.3 mmol, 0.868 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 42 mL | O1CCOCC1 | C4H8O2
solvent | water | 8.5 mL | O | H2O
product | 3-[8-(2,6-difluorophenyl)-2-(methylthio)-7-oxo-5,6,7,8-tetrahydropyrimido[4,5-d]pyrimidin-4-yl]-N,N-diethyl-4-methylbenzamide | FC1=C(C(=CC=C1)F)N1C(NCC2=C1N=C(N=C2C=2C=C(C(=O)N(CC)CC)C=CC2C)SC)=O | C25H25F2N5O2S
